US05258509
4-Nitrobenzyl (5R,6S)-2-((E)-2-carbamoylvinyl)-6-((1R)-1-hydroxyethyl) -1-carbapen-2-em-3-carboxylate
Under a nitrogen atmosphere, to a solution of 128 mg (0.367 mmol) of 4-nitrobenzyl (5R,6S)-2-oxo-6-((1R)-1-hydroxyethyl) -1-carbapenam-3-carboxylate in acetonitrile (3ml) was added 0.065 ml (0.37 mmol) of diisopropylethylamine at -45° C., followed by 0.062 ml (0.37 mmol) of trifluoromethanesulfonic anhydride, and the mixture was stirred at -40°-30° C. for 30 minutes. To the reaction mixture was added ethyl acetate (3 ml), and the organic layer was washed with saturated aqueous sodium bicarbonate followed by saturated aqueous sodium chloride. After the extract was dried over anhydrous magnesium sulfate, the solvent was removed. The residual triflate was used the next reaction without purification. To this crude product was added 113 mg (0.83 mmol) of zinc chloride, 5.3 mg (0.0091 mmol) of bis(benzylideneacetone)palladium(0), and 4.4 mg (0.0185 mmol) of tri(2-furyl)phosphine. Under a nitrogen atmosphere, a solution of 157 mg (0.436 mmol) of (E)-2-carbamoylvinyl (tri-n-butyl)tin in N-methylpyrrolidinone (6 ml) was added, and the mixture was stirred for 2 hours at room temperature. To the reaction mixture was added ethyl acetate, and the organic layer was washed with water followed by saturated aqueous sodium chloride. After the extract was dried over anhydrous magnesium sulfate, the solvent was removed. The residue was purified by silica gel column chromatography (elution with methanol-chloroform system) to give 50.5 mg (yield: 34.3 %) of the title compound.

reactant | 4-nitrobenzyl (5R,6S)-2-oxo-6-((1R)-1-hydroxyethyl) -1-carbapenam-3-carboxylate | 0.367 mmol, 128 mg | O=C1C[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O | C16H16N2O7
reactant | diisopropylethylamine | 0.37 mmol, 0.065 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 0.37 mmol, 0.062 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | tri(2-furyl)phosphine | 0.0185 mmol, 4.4 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | (E)-2-carbamoylvinyl (tri-n-butyl)tin | 0.436 mmol, 157 mg | C(N)(=O)/C=C/[Sn](CCCC)(CCCC)CCCC
solvent | acetonitrile | 3ml | C(C)#N | C2H3N
solvent | N-methylpyrrolidinone | 6 ml | CN1C(CCC1)=O | C5H9NO
catalyst | zinc chloride | 0.83 mmol, 113 mg | [Cl-].[Zn+2].[Cl-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | 4-Nitrobenzyl (5R,6S)-2-((E)-2-carbamoylvinyl)-6-((1R)-1-hydroxyethyl) -1-carbapen-2-em-3-carboxylate | 50.5 mg, yield: 34.3 % | C(N)(=O)/C=C/C=1C[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O | C19H19N3O7
